US04146721
18.6 grams 3,3-diacetyl-propionic acid-ethyl ester, 9.0 grams glacial acetic acid and 150 milliliters methanol were mixed, and 5.3 grams hydrazine hydrate were added dropwise to this mixture within 30 minutes. The reaction mixture was then heated to the boiling temperature under reflux for 3 hours. The reaction mixture was then evaporated and distilled in vacuo. The fraction obtained at 142°-150° C.).05 Torr consisted of an oil which later crystallized. 16.2 grams 3,5-dimethyl-1H-pyrazol-4-acetic acid-ethyl ester were obtained, representing a yield of 80%

reactant | 3,3-diacetyl-propionic acid-ethyl ester | 18.6 grams | C(C)OC(CC(C(C)=O)C(C)=O)=O | C9H14O4
reactant | acetic acid | 9.0 grams | C(C)(=O)O | C2H4O2
reactant | hydrazine hydrate | 5.3 grams | O.NN
solvent | methanol | 150 milliliters | CO | CH4O
product | 3,5-dimethyl-1H-pyrazol-4-acetic acid-ethyl ester | 16.2 grams, yield of 80% | C(C)OC(CC=1C(=NNC1C)C)=O | C9H14N2O2
